US04287197
3-Methoxymethylisoquinoline (68.8 g) is dissolved in 95% sulphuric acid (density 1.83; 300 cc). The solution is cooled to 0° C. and a mixture of 70% nitric acid (density 1.42; 25 cc) and 95% sulphuric acid (density 1.83; 100 cc) is added dropwise in the course of 30 minutes so as not to exceed 10° C. Stirring is continued for 16 hours, whilst allowing the temperature to return to about 20° C. The mixture is then poured into a mixture of ice and water (2 liters), and an ammonia solution containing 20% of NH3 (density 0.9) is added, without exceeding 30° C., until a pH of about 10 is obtained. The resulting yellow solution is extracted with methylene chloride (4×400 cc). The organic extracts are combined, washed with water (2×50 cc), dried over magnesium sulphate and filtered, and the filtrate is evaporated to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). 3-Methoxymethyl-5-nitroisoquinoline (78 g), m.p. 91° C., is obtained.

reactant | 3-Methoxymethylisoquinoline | 68.8 g | COCC=1N=CC2=CC=CC=C2C1 | C11H11NO
reactant | nitric acid | 25 cc | [N+](=O)(O)[O-] | HNO3
reactant | water | 2 liters | O | H2O
reactant | ammonia | N | H3N
solvent | sulphuric acid | 300 cc | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 100 cc | S(O)(O)(=O)=O | H2O4S
product | 3-Methoxymethyl-5-nitroisoquinoline | 78 g | COCC=1N=CC2=CC=CC(=C2C1)[N+](=O)[O-] | C11H10N2O3
